US07842324B2
A mixture of 2,2-dimethyl-1,3-dioxane-4,6-dione (5.0 g, 34.6 mmol) and MeOH (1.4 mL, 34.6 mmol) was heated at 80° C. for 18 h. The reaction was concentrated, the residue (2.05 g, 17.3 mmol) was dissolved in CH3CN (10 mL) and added to a solution of HOBt (2.3 g, 17.3 mmol), EDCI.HCl (3.3 g, 17.3 mmol), N,N-diisopropylethylamine (3.01 mL, 17.3 mmol) and N′-hydroxybenzimidamide (2.0 g, 8.5 mmol) in CH3CN (5 mL). The reaction was stirred at 40° C. for 18 h under N2, and upon completion, diluted with EtOAc and washed with H2O (2×). The combined organic layers were dried over Na2SO4, concentrated and purified by flash-chromatography (0-50% EtOAc in Hexane). The resulting residue was dissolved in CH3CN (10 mL), and heated in a microwave reactor (110° C., 30 min). Upon completion, the solvent was removed in vacuo and the residue was purified by flash-chromatography (0-50% EtOAc in Hexane) to yield methyl 2-(3-phenyl-1,2,4-oxadiazol-5-yl)acetate as a yellow oil (700 mg, 38%). 1H NMR (500 MHz, DMSO-d6): δ 3.72 (s, 3H), 4.41 (s, 2H), 7.56-7.62 (m, 3H), 8.01-8.04 (m, 2H). MS(M+H, 219).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 34.6 mmol, 5.0 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | MeOH | 34.6 mmol, 1.4 mL | CO | CH4O
reactant | HOBt | 17.3 mmol, 2.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 17.3 mmol, 3.3 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 17.3 mmol, 3.01 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N′-hydroxybenzimidamide | 8.5 mmol, 2.0 g | ON=C(C1=CC=CC=C1)N | C7H8N2O
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-(3-phenyl-1,2,4-oxadiazol-5-yl)acetate | 700 mg, 38% | C1(=CC=CC=C1)C1=NOC(=N1)CC(=O)OC | C11H10N2O3
